US07846959B2
To a slurry of sodium hydride (0.67 g, 17 mmol) in N,N-dimethylformamide (43 mL) cooled to 0° C. was added 5-iodo-1H-indazole (3.1 g, 13 mmol). After stirring for 15 min, triisopropylsilyl chloride (3.4 mL, 17 mmol) was added dropwise and the solution was allowed to warm to room temperature. The solution was diluted with ethyl acetate and water and the layers were separated. The aqueous layer was extracted (2×100 mL ethyl acetate) and the combined organic layers were dried (sodium sulfate), filtered and concentrated in vacuo. Column chromatography (silica gel, 20:1 hexanes/ethyl acetate) gave 1.8 g (68%) of 5-iodo-1-[tris(1-methylethyl)silyl]-1H-indazole as a yellow solid. 1H NMR (400 MHz, CDCl3): 8.14 (d, 1H), 8.11 (d, 1H), 7.55 (dd, 1H), 7.35 (d, 1H), 1.77 (m, 3H), 1.10 (m, 18H).

reactant | sodium hydride | 17 mmol, 0.67 g | [H-].[Na+]
reactant | 5-iodo-1H-indazole | 13 mmol, 3.1 g | IC=1C=C2C=NNC2=CC1 | C7H5IN2
reactant | triisopropylsilyl chloride | 17 mmol, 3.4 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | N,N-dimethylformamide | 43 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-iodo-1-[tris(1-methylethyl)silyl]-1H-indazole | 1.8 g, 68% | IC=1C=C2C=NN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C16H25IN2Si
